US04053608
Synthesis of N-pivaloyl 2-methyl-5-nitronicotinamide (No. 116)
A mixture of 1.0 g of 2-methyl-5-nitronicotinamide, 6-ml of pivalic anhydride and five drops of conc. sulfuric acid was stirred with heating at 90° C for 90 hours. After completion of the reaction, the mixture was treated in the same manner as above to give 0.31 g of the desired compound. mp 138° - 139° C.

reactant | 2-methyl-5-nitronicotinamide | 1.0 g | CC1=C(C(=O)N)C=C(C=N1)[N+](=O)[O-] | C7H7N3O3
reactant | pivalic anhydride | 6-ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
product | N-pivaloyl 2-methyl-5-nitronicotinamide | 0.31 g | C(C(C)(C)C)(=O)NC(C1=C(N=CC(=C1)[N+](=O)[O-])C)=O | C12H15N3O4
